US05039805
For the preparation of the ester starting material, m-(1-t-butoxyformamido)benzoic acid in THF is activated (2 hours, 0° C.) with 2-chloro-4,6-dimethoxy-1,3,5-triazine and N-methylmorpholine and reacted with β-alanine benzyl ester p-toluenesulphonate and N-methylmorpholine to give N-[m-(1-t-butoxyformamido)benzoyl]-β-alanine benzyl ester, m.p. 130°-131° C. Cleavage with trifluoroacetic acid gives N-(m-aminobenzoyl)-β-alanine benzyl ester trifluoroacetate. Nα -Z-Nω -Nitro-L-arginine is activated (4 minutes, -10° C.) with isobutyl chloroformate and triethylamine in THF and coupled with N-(m-aminobenzoyl)-β-alanine benzyl ester trifluoroacetate and triethylamine to give the desired benzyl ester, m.p. 157°-160° C.

reactant | m-(1-t-butoxyformamido)benzoic acid | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C12H15NO4
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | β-alanine benzyl ester p-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CCN)=O
solvent | THF | C1CCOC1 | C4H8O
product | N-[m-(1-t-butoxyformamido)benzoyl]-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCNC(C1=CC(=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C22H26N2O5
